US04052514
2,4-Dichloroiodobenzene and 2,5-dibromonitrobenzene were reacted under Ullmann conditions to give 4-bromo-2',4'-dichloro-2-nitrobiphenyl, m.p. 112°-115° C. This was reduced with stannous chloride to give 2-amino-4-bromo-2',4'-dichlorobiphenyl, b.p. 170°-175° C./0.2 mm. This was subjected to the Schiemann reaction using fluoroboric acid to give 4-bromo-2',4'-dichloro-2-fluorobiphenyl, m.p. 63°-65° C. This was reacted with cuprous cyanide in dimethyl formamide to give 2',4'-dichloro-4-cyano-2-fluorobiphenyl, m.p. 98°-103° C. which was then reacted with methylmagnesium iodide followed by hydrolysis with dilute hydrochloric acid to yield 4-acetyl-2',4'-dihloro-2-fluorobiphenyl, m.p. 65°-67° C.

reactant | 2,4-Dichloroiodobenzene | ClC1=C(C=CC(=C1)Cl)I | C6H3Cl2I
reactant | 2,5-dibromonitrobenzene | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
product | 4-bromo-2',4'-dichloro-2-nitrobiphenyl | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C12H6BrCl2NO2
